US04801708
(a) 3,4- Diamino-6-(1,1-dimethylethyl)-4H-1,2,4-triazin-5-one
3.8 g (0.03 mole) of diaminoguanidine hydrochloride are dissolved in 35 ml of water. To this solution are added 5.1 g (0.03 mole) of N-acetyl-3,3,3-trimethylpyruvamide and the reaction mixture is heated for 15 minutes to 90° C. The reaction mixture is filtered and the filtrate is neutralised by addition of crystalline sodium bicarbonate. At pH 7, 3.6 g (66.7% of theory) of 3,4-diamino-6-(1,1-dimethylethyl)-4H-1,2,4-triazin-5-one precipitate in the form of a yellowish crystalline solid with a melting point of 223°-224° C.

reactant | diaminoguanidine hydrochloride | 0.03 mole, 3.8 g | Cl.NNC(NN)=N
reactant | N-acetyl-3,3,3-trimethylpyruvamide | 0.03 mole, 5.1 g | C(C)(=O)NC(C(=O)C(C)(C)C)=O | C8H13NO3
solvent | water | 35 ml | O | H2O
product | 3,4- Diamino-6-(1,1-dimethylethyl)-4H-1,2,4-triazin-5-one | NC1=NN=C(C(N1N)=O)C(C)(C)C | C7H13N5O
